US04226777
A solution of 10.9 ml (0.65 mol) of triflic anhydride in 210 ml of ether was added dropwise over 25 minutes to a solution of 17.4 g (0.124 mol) of 2-fluoro-2-nitro-1,3-propanediol and 6.0 ml (0.074 mol) of pyridine in 210 ml of ether, at a temperature just below 26° C. After 16 hours, the resulting precipitate was filtered and washed with ether. The filtrate was stripped of solvent and the residue was partitioned between 300 ml of methylene chloride and 60 ml of water. The methylene chloride layer was washed with 30 ml of water, dried over sodium sulfate and chromatographed on a 125 g silica gel column. Elution with 500 ml of methylene chloride and with 1100 ml of 9:1 methylene chloride-ethyl acetate gave 15.5 g (88% yield) of 2-fluoro-2-nitro-1,3-propanediol monotriflate, which was recrystallized from methylene chloride. Skelly F: mp 29°-30°; proton NMR (CDCl3) δ2.65 (broad s, 1H,OH), 4.10 (d,J=14 Hz, 2H, CH2OH), 5.07 (m, J=14 Hz, 2 H CH2OSO2CF3); fluorine NMR (CDCl3) φ72.0 (s, 3F, CF3), 139.4 (quint, J=14 Hz, 1F, O2NCF): IR (CH2Cl2) 3625 (OH), 1580, 1350 (NO2), 1420, 1220, 1140, 900 (OSO2CF2), 1000 cm-1 (CF).

reactant | triflic anhydride | 0.65 mol, 10.9 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2-fluoro-2-nitro-1,3-propanediol | 0.124 mol, 17.4 g | FC(CO)(CO)[N+](=O)[O-] | C3H6FNO4
reactant | pyridine | 0.074 mol, 6.0 ml | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride ethyl acetate | 1100 ml | C(Cl)Cl.C(C)(=O)OCC
solvent | ether | 210 ml | CCOCC | C4H10O
solvent | ether | 210 ml | CCOCC | C4H10O
product | 2-fluoro-2-nitro-1,3-propanediol monotriflate | 15.5 g, 88% yield | S(=O)(=O)(C(F)(F)F)OCC(CO)([N+](=O)[O-])F | C4H5F4NO6S
